US06380230B1
A) 5-Cyclohexylethyl-2-(2,5-dimethylpyrrol-1-yl)-4-(2,6-dimethoxy-4-methylphenyl)thiazole
10 ml of 1.6M n-butyllithium in hexane are added, at −30° C., to 4.27 g of 2-(2,5-dimethylpyrrol-1-yl)-4-(2,6-dimethoxy-4-methylphenyl) thiazole and the mixture is left stirring for 30 minutes at −30° C. 4.2 g of cyclohexylethanol triflate are added at −45° C., the mixture is then warmed to 0° C., water is added, this mixture is extracted with Et2O and the extracts are dried and evaporated. The gum formed is chromatographed on silica, eluting with cyclohexane/EtOAc (1/1; v/v). 0.52 g of the expected compound is obtained in the form of a colourless gum.

reactant | n-butyllithium | 1.6M, 10 ml | C(CCC)[Li]
reactant | 2-(2,5-dimethylpyrrol-1-yl)-4-(2,6-dimethoxy-4-methylphenyl) thiazole | 4.27 g | CC=1N(C(=CC1)C)C=1SC=C(N1)C1=C(C=C(C=C1OC)C)OC | C18H20N2O2S
reactant | cyclohexylethanol triflate | 4.2 g | S(=O)(=O)(C(F)(F)F)OC(C)C1CCCCC1 | C9H15F3O3S
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 5-Cyclohexylethyl-2-(2,5-dimethylpyrrol-1-yl)-4-(2,6-dimethoxy-4-methylphenyl)thiazole | 0.52 g | C1(CCCCC1)CCC1=C(N=C(S1)N1C(=CC=C1C)C)C1=C(C=C(C=C1OC)C)OC | C26H34N2O2S
